US09315521B2
To a solution of (3-ethyl-5-fluoropyridin-4-yl)methanol (1.5 g, 9.7 mmol) in anhydrous dichloromethane (75 mL) was added tribromophosphane (1 mL, 10.5 mmol). The mixture was stirred at room temperature overnight. Dichloromethane was evaporated. The residue was dried in vacuo, affording 4-(bromomethyl)-3-ethyl-5-fluoropyridine hydrobromide. The crude product was used without further purification.

reactant | (3-ethyl-5-fluoropyridin-4-yl)methanol | 9.7 mmol, 1.5 g | C(C)C=1C=NC=C(C1CO)F | C8H10FNO
reactant | tribromophosphane | 10.5 mmol, 1 mL | BrP(Br)Br | Br3P
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 4-(bromomethyl)-3-ethyl-5-fluoropyridine hydrobromide | Br.BrCC1=C(C=NC=C1F)CC | InChI=1S/C8H9BrFN.BrH/c1-2-6-4-11-5-8(10)7(6)3-9;/h4-5H,2-3H2,1H3;1H
